US07091228B2
A suspension of methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate (200 mg, 0.67 mmol), bis(pinacolato)diboron (170 mg, 0.67 mmol), potassium acetate (197 mg, 2.01 mmol), and palladium acetate (5 mg, 0.02 mmol) in N,N-dimethylformamide (4.0 mL) was degassed by bubbling a flow of argon for 30 minutes. The reaction mixture was then heated at 80° C. for 3 h. After the mixture was cooled to rt, 5-chloro-2-nitroanisole (125 mg, 0.67 mmol), tetrakis(triphenyl-phosphine)palladium(0) (23 mg, 0.02 mmol), and cesium carbonate (327 mg, 1.0 mmol) were added and the reaction mixture was heated at 80° C. for 16 h. The mixture was then cooled to rt, and water was added. The aqueous layer was extracted with ethyl acetate and the combined organic phases were dried over anhydrous sodium sulfate. Solvent was removed under reduced pressure and the residue was purified by flash chromatography (Biotage Flash 40M, 1:3 ethyl acetate/hexane) to afford methyl 4-(3′-methoxy4′-nitro-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate (120 mg, 48%). LC-MS ret. time 3.38 min, m/z 371.8 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.19 (s, 6H), 3.36 (s, 2H), 3.51 (s, 3H), 4.02 (s, 3H), 7.21–7.24 (m, 2H), 7.64–7.69 (m, 2H), 7.93 (d, 1H), 8.00–8.04 (m, 2H).

reactant | methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate | 0.67 mmol, 200 mg | BrC1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C13H15BrO3
reactant | bis(pinacolato)diboron | 0.67 mmol, 170 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.01 mmol, 197 mg | C(C)(=O)[O-].[K+]
reactant | 5-chloro-2-nitroanisole | 0.67 mmol, 125 mg | ClC=1C=CC(=C(C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | cesium carbonate | 1.0 mmol, 327 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.02 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | methyl 4-(3′-methoxy4′-nitro-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate | 120 mg, 48% | COC=1C=C(C=CC1[N+](=O)[O-])C1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C20H21NO6
